US07834013B2
Ethyl 4-methyl-2-(phenyloxy)-1,3-thiazole-5-carboxylate (X-2a)
To a solution of ethyl 2-chloro-4-methyl-1,3-thiazole-5-carboxylate (X-1) (0.25 g, 1.22 mmol) and phenol (0.15 g, 1.61 mmol) in acetone (3 mL) was added K2CO3 (0.25 g, 1.81 mmol). The mixture was heated for 18 h at 65° C. Additional K2CO3 (0.25 g) was added and the mixture was continued to heat at 70° C. for 24 h. Upon cooling, water was added (10 mL). The mixture was extracted with Et2O. The combined organics were dried with MgSO4 and concentrated. The crude material was purified by chromatography (EtOAc/hexanes) to give the title compound as a white solid (0.18 g, 56%). 1H NMR (CDCl3) δ 7.44 (m, 2H), 7.33-7.27 (m, 3H), 4.26 (q, J=7.1 Hz, 2H), 2.60 (s, 3H), 1.31 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-chloro-4-methyl-1,3-thiazole-5-carboxylate | 1.22 mmol, 0.25 g | ClC=1SC(=C(N1)C)C(=O)OCC | C7H8ClNO2S
reactant | phenol | 1.61 mmol, 0.15 g | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 1.81 mmol, 0.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 0.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | Ethyl 4-methyl-2-(phenyloxy)-1,3-thiazole-5-carboxylate | 0.18 g, 56% | CC=1N=C(SC1C(=O)OCC)OC1=CC=CC=C1 | C13H13NO3S
